US07384967B2
N-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl)-N′,N′-dimethylsulfamide (104 mg, 89%) was prepared from 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (90 mg, 0.25 mmol) and dimethylsulfamoyl chloride (0.06 mL, 0.5 mmol) following the general procedure T.

reactant | 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.25 mmol, 90 mg | NCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C18H22N4O2S
reactant | dimethylsulfamoyl chloride | 0.5 mmol, 0.06 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | N-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl)-N′,N′-dimethylsulfamide | 104 mg, 89% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CNS(=O)(=O)N(C)C)=O | C20H27N5O4S2
